US07781443B2
(2R,4S)-4-([3,5-Bis(trifluoromethyl)benzyl]-{5-[2-(N-hydroxy-carbamimidoyl)ethyl]pyrimidin-2-yl})amino-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester (140 mg) is dissolved in acetonitrile (1 ml), and thereto is added carbodiimidazole (51 mg). The mixture is heated at 60° C. and stirred for 25.5 hours. The reaction solution is cooled to room temperature, and partitioned by adding water and ethyl acetate. The organic layer is washed with saturated brine, then dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue is purified by column chromatography (silica gel; chloroform:methanol=1:0→19:1) to give (2R,4S)-4-([3,5-bis-(trifluoromethyl)benzyl]-{5-[2-(5-oxo-4,5-dihydro[1,2,4]oxadiazol-3-yl)ethyl]pyrimidin-2-yl})amino-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester (84 mg). MS (m/z): 696 [M+H]+.

reactant | (2R,4S)-4-([3,5-Bis(trifluoromethyl)benzyl]-{5-[2-(N-hydroxy-carbamimidoyl)ethyl]pyrimidin-2-yl})amino-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester | 140 mg | C(C)OC(=O)N1[C@@H](C[C@@H](C2=NC(=CC=C12)OC)NC1=NC=C(C(=N1)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)CCC(NO)=N)CC | C30H33F6N7O4
reactant | carbodiimidazole | 51 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
solvent | acetonitrile | 1 ml | C(C)#N | C2H3N
product | (2R,4S)-4-([3,5-bis-(trifluoromethyl)benzyl]-{5-[2-(5-oxo-4,5-dihydro[1,2,4]oxadiazol-3-yl)ethyl]pyrimidin-2-yl})amino-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester | 84 mg | C(C)OC(=O)N1[C@@H](C[C@@H](C2=NC(=CC=C12)OC)NC1=NC=C(C(=N1)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)CCC1=NOC(N1)=O)CC | C31H31F6N7O5
